US05302720
A mixture of 2-amino-3'-methylbiphenyl hydrochloride (1 g), N,N-dimethylcyanamide (0.67 ml) in m-cresol (1 ml) was heated at 100° C. for 3 hours to give N,N-dimethyl-N'-(3'-methyl-2-biphenylyl)guanidine (m.p. 116° C.) which was crystallised from hexane.

reactant | 2-amino-3'-methylbiphenyl hydrochloride | 1 g | Cl.NC1=C(C=CC=C1)C1=CC(=CC=C1)C
reactant | N,N-dimethylcyanamide | 0.67 ml | CN(C#N)C | C3H6N2
solvent | m-cresol | 1 ml | C1=C(C=CC=C1O)C | C7H8O
product | N,N-dimethyl-N'-(3'-methyl-2-biphenylyl)guanidine | CN(C(=N)NC1=C(C=CC=C1)C1=CC(=CC=C1)C)C | C16H19N3
